US05439917
A suspension of 2-bromo-6-hydrazinopyridine (32,5 g, 0.17 mol) in abs EtOH was treated with ethyl methyl ketone (20 ml, 0.22 mol) for 1 h at reflux. The reaction mixture was allowed to cool and treated with additional ethyl methyl ketone (10+3+1 ml) until all starting material had dissapeared according to TLC. The reaction mixture was taken up in 150 ml diethylene glycol and the EtOH evaporated at reduced pressure at 70° C. The remaining solution was deaerated and heated to reflux for 22h. The reaction mixture was cooled and paritioned between 1250 ml CH2Cl2 and 1000 ml 2M HCl (reextracted with 250 ml CH2Cl2). The organic layer was washed with further 500 ml 2M HCl and 500 ml H2O dried over MgSO4, and evaporated. Chromatography (silica, CH2Cl2 /diethyl ether; 95/5) afforded 6 g 6-bromo-2,3-dimethyl-pyrrolo[2,3-b] pyridine. Recrystallization from 120 ml abs EtOH gave 4,2 g (11%). (1H-NMR, 500 MHz, CDCl3) 2.19(s,3H), 2.42(s,3H), 7.16(d, 1H), 7.59(d, 1H), 9.12(b, 1H).

reactant | 2-bromo-6-hydrazinopyridine | 0.17 mol, 32,5 g | BrC1=NC(=CC=C1)NN | C5H6BrN3
reactant | EtOH | CCO | C2H6O
reactant | ethyl methyl ketone | 0.22 mol, 20 ml | CC(=O)CC | C4H8O
reactant | ethyl methyl ketone | 1 ml | CC(=O)CC | C4H8O
solvent | diethylene glycol | 150 ml | C(COCCO)O | C4H10O3
product | 6-bromo-2,3-dimethyl-pyrrolo[2,3-b] pyridine | 6 g | BrC1=CC=C2C(=N1)NC(=C2C)C | C9H9BrN2
